US08466186B2
(d) 4-Chloro-3-[5-chloro-6-(3-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine
6 M aq. HCl-solution (1.0 ml) was added to N-{4-chloro-3-[5-chloro-6-(3-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester (130 mg, 0.2 mmol) in THF (2 mL) and stirred at 50° C. for 1 h. The reaction mixture was concentrated to give the sub-title compound.

reactant | HCl | 6 M, 1.0 ml | Cl | ClH
reactant | N-{4-chloro-3-[5-chloro-6-(3-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-carbamic acid tert-butyl ester | 0.2 mmol, 130 mg | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)Cl)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2CC(CC2)CN(C)C)=O | C26H34Cl2N6O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Chloro-3-[5-chloro-6-(3-dimethylaminomethyl-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine | ClC1=C(C=C(CN)C=C1)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2CC(CC2)CN(C)C | C21H26Cl2N6
